US05102781
4-[-5-chloro-3-ethylbenzothiazolinylidene]-3-methyl-1-phenylpyrazolin-5-one
3-Methyl-1-phenylpyrazolin-5-one (1.74 g, 0.01) was mixed with 4.3 g (0.01 mol) 5-chloro-2-ethylthio-3-ethylbenzothiazolium tosylate in 15 ml methanol. Triethylamine (1.01 g, 0.01 mol) was added. The mixture was stirred for 1 hour, then filtered and washed with methanol. After drying the yield was 2.20 g (59%), mp 161°-162.5° C., λmax=382 (ε=21,000).

reactant | 3-Methyl-1-phenylpyrazolin-5-one | 1.74 g | CC=1NN(C(C1)=O)C1=CC=CC=C1 | C10H10N2O
reactant | 5-chloro-2-ethylthio-3-ethylbenzothiazolium tosylate | 0.01 mol, 4.3 g | S(=O)(=O)([O-])C1=CC=C(C)C=C1.ClC=1C=CC2=C([N+](=C(S2)SCC)CC)C1
reactant | Triethylamine | 0.01 mol, 1.01 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 15 ml | CO | CH4O
product | 4-[-5-chloro-3-ethylbenzothiazolinylidene]-3-methyl-1-phenylpyrazolin-5-one | ClC=1C=CC2=C(N(CS2=C2C(NN(C2=O)C2=CC=CC=C2)C)CC)C1 | C19H20ClN3OS
